US09108969B2
Preparation of 2-(7-(3-Cyano-4-methoxybenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid (Compound 33)
From tert-butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate and 5-(chloromethyl)-2-methoxybenzonitrile, the title compound was prepared using a similar method to the one described in Example 1.16, Step A & B. LCMS m/z=377.4 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 2.28-2.37 (m, 1H), 2.68 (dd, J=16.4, 8.3 Hz, 1H), 2.87-2.98 (m, 2H), 3.73-3.81 (m, 1H), 3.94 (s, 3H), 3.99-4.06 (m, 1H), 4.11-4.18 (m, 1H), 5.02 (s, 2H), 6.13 (s, 1H), 6.85 (dd, J=8.7, 2.4 Hz, 1H), 6.98 (d, J=8.6 Hz, 1H), 7.07 (d, J=2.3 Hz, 1H), 7.15 (d, J=8.7 Hz, 1H), 7.64 (dd, J=8.6, 2.1 Hz, 1H), 7.66 (d, J=2.0 Hz, 1H).

reactant | tert-butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | OC1=CC=2C=C3N(C2C=C1)CCC3CC(=O)OC(C)(C)C | C17H21NO3
reactant | 5-(chloromethyl)-2-methoxybenzonitrile | ClCC=1C=CC(=C(C#N)C1)OC | C9H8ClNO
product | 2-(7-(3-Cyano-4-methoxybenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | C(#N)C=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=CC1OC | C22H20N2O4
